US07217740B2
(1S)-1-[2-({4-[(E)-2-(4-fluorophenyl)vinyl]-3-methylphenyl}sulfonyl)phenyl]ethanol
An Emrys microwave vial containing (1S)-1-[2-({4-bromo-3-methylphenyl}sulfonyl)phenyl]ethanol (71 mg, 0.2 mmol), [(E)-2-(4-fluorophenyl)vinyl]boronic acid (43 mg, 0.26 mmol), tetrakis(triphenylphosphine) palladium(0) (23 mg, 0.020 mmol), THF (2 mL) and 2M aqueous sodium carbonate (1 mL) was heated in an Emrys microwave reactor at 150° C. for 10 minutes. On cooling, the mixture was partitioned between EtOAc (15 mL) and water (15 mL) and the organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude material was purified by flash chromatography on silica (eluant 30% EtOAc/isohexane) to afford the title compound as a white solid (45 mg). δH (500 MHz, d6 DMSO): 8.01 (1H, d, J 7.9), 7.88 (1H, d, J 8.2), 7.80 (1H, d, J 7.8), 7.73–7.63 (5H, m), 7.52 (1H, t, J 7.6), 7.37 (1H, d, J 16.3), 7.29 (1H, d, J 16.2), 7.22 (2H, t, J 8.7), 5.45 (1H, s), 5.30 (1H, s), 2.46 (3H, s), 1.11 (3H, d, J 5.9). m/z (ES+) 379 [(M−OH)+].

reactant | (1S)-1-[2-({4-bromo-3-methylphenyl}sulfonyl)phenyl]ethanol | 0.2 mmol, 71 mg | BrC1=C(C=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O)C | C15H15BrO3S
reactant | [(E)-2-(4-fluorophenyl)vinyl]boronic acid | 0.26 mmol, 43 mg | FC1=CC=C(C=C1)/C=C/B(O)O | C8H8BFO2
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.020 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1S)-1-[2-({4-[(E)-2-(4-fluorophenyl)vinyl]-3-methylphenyl}sulfonyl)phenyl]ethanol | 45 mg | FC1=CC=C(C=C1)/C=C/C1=C(C=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O)C | C23H21FO3S
